US05082847
50 g (0.33 mol.) of Methyl 3,3-dimethoxy-propanoate in 200 ml of 2N NaOH solution in water were refluxed 2 hours. After cooling the solution was acidified with hydrochloric acid then extracted two times with 200 ml of CH2Cl2. The extracts were dried on sodium sulfate and evaporated to leave 35 g (Yield=78%) of 3,3-dimethoxy-propanoic acid as an oil.

reactant | Methyl 3,3-dimethoxy-propanoate | 0.33 mol, 50 g | COC(CC(=O)OC)OC | C6H12O4
reactant | hydrochloric acid | Cl | ClH
solvent | NaOH | 2N, 200 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 3,3-dimethoxy-propanoic acid | 35 g, Yield=78% | COC(CC(=O)O)OC | C5H10O4
